US08975254B2
a) 5-(2-hydroxypropan-2-yl)isoxazole-3-carboxylic acid
Ethyl 5-(2-hydroxypropan-2-yl)isoxazole-3-carboxylate (0.436 g, 2.189 mmol) was dissolved in methanol (20 ml). A solution of cesium carbonate (1.426 g, 4.38 mmol) in 20 ml of water was added and the reaction mixture was stirred at RT for 18 h. Solvents were evaporated and the residue was taken into a mixture of ethyl acetate and water, pH was adjusted to 2.5 with 10% citric acid solution and the layers were separated. Water layer was extracted three times with ethyl acetate and the combined organic layers were dried with Na2SO4, filtered and evaporated affording 0.246 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.49 (s, 6H), 5.75 (m, 1H), 6.60 (s, 1H).

reactant | Ethyl 5-(2-hydroxypropan-2-yl)isoxazole-3-carboxylate | 2.189 mmol, 0.436 g | OC(C)(C)C1=CC(=NO1)C(=O)OCC | C9H13NO4
reactant | cesium carbonate | 4.38 mmol, 1.426 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 5-(2-hydroxypropan-2-yl)isoxazole-3-carboxylic acid | 0.246 g | OC(C)(C)C1=CC(=NO1)C(=O)O | C7H9NO4
